US06417194B1
(a) 4-Amino-6-hydroxy-7-methoxy-2-[4-(4-morpholinecarbonyl)-1,4-diazepan-1-yl]quinazoline
10% palladium on charcoal (3 g) was added to a suspension of 4-amino-6-benzyloxy-7-methoxy-2-[4-(4-morpholinecarbonyl)-1,4-diazepan-1-yl]quinazoline (16.35 g, 0.033 mol) in ethanol (800 ml) and the reaction stirred at 50° C. under a hydrogen atmosphere of 414 kPa (60 p.s.i.) for 72 hours. On cooling, the reaction mixture was filtered through Arbocel™, washed well with further ethanol and the filtrate concentrated under reduced pressure. The crude product was purified on silica gel eluting with a solvent gradient of 0.880 aqueous ammonia:methanol:dichloromethane (0.5:3.5:96 to 1:7:92, v/v) to give the subtitle compound as a white solid (7.1 g, 53%). Rf 0.17 (0.880 aqueous ammonia:methanol:dichloromethane 1:7:92, v/v). MS m/z 403 (MH)+.

reactant | 4-amino-6-benzyloxy-7-methoxy-2-[4-(4-morpholinecarbonyl)-1,4-diazepan-1-yl]quinazoline | 0.033 mol, 16.35 g | NC1=NC(=NC2=CC(=C(C=C12)OCC1=CC=CC=C1)OC)N1CCN(CCC1)C(=O)N1CCOCC1 | C26H32N6O4
catalyst | palladium on charcoal | 3 g | [Pd] | Pd
solvent | ethanol | 800 ml | C(C)O | C2H6O
product | 4-Amino-6-hydroxy-7-methoxy-2-[4-(4-morpholinecarbonyl)-1,4-diazepan-1-yl]quinazoline | 7.1 g, 53% | NC1=NC(=NC2=CC(=C(C=C12)O)OC)N1CCN(CCC1)C(=O)N1CCOCC1 | C19H26N6O4
